US04294838
23.6 g. 35% perhydrol is added dropwise to a solution of 44 g. 3-phenylthiopryidine in 200 ml. glacial acetic acid. The reaction mixture is stirred for 24 hours at ambient temperature and then poured into ice water. The mixture is rendered alkaline by adding aqueous ammonia, while cooling, and then extracted with dichloromethane. The extract is dried and evaporated and the residue is recrystallised from diisopropyl ether/ethyl acetate. There is obtained 3-(phenyl-sulphinyl)-pyridine in a yield of 83% of theory; m.p. 56° C.

reactant | perhydrol | OO | H2O2
reactant | 3-phenylthiopryidine | C1(=CC=CC=C1)SC=1C=NC=CC1 | C11H9NS
reactant | ammonia | N | H3N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(phenyl-sulphinyl)-pyridine | yield of 83% | C1(=CC=CC=C1)S(=O)C=1C=NC=CC1 | C11H9NOS
